US05919986
1.31 g (9.81 mmol) of N-chloro-succinimide in 34 ml of abs. CH2Cl2 was treated at -10° with 749 μl (10.2 mmol) of dimethyl sulfide. 15 Minutes later, 2.95 g (4.559 mmol) of (Z)-(3S,5S)-2-[3,5-bis-(tert-butyl-diphenyl-silanyloxy)-2-methylene-cyclohexylidene]-ethanol, dissolved in 10 ml of CH2Cl2, was slowly added to the resultant white suspension at the same temperature and then stirred for additional 30 minutes at RT. The reaction mixture was then poured onto crushed ice, extracted with ether, washed with water, dried over sodium sulfate and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=97.5/2.5) yielded 2.76 g of (Z)-(3S,5S)-1-(2-chloro-ethylidene)-3,5-bis-(tert-butyl-diphenyl-silanyloxy)-2-methylene-cyclohexane as yellowish foam.

reactant | N-chloro-succinimide | 9.81 mmol, 1.31 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | dimethyl sulfide | 10.2 mmol, 749 μl | CSC | C2H6S
reactant | (Z)-(3S,5S)-2-[3,5-bis-(tert-butyl-diphenyl-silanyloxy)-2-methylene-cyclohexylidene]-ethanol | 4.559 mmol, 2.95 g | C(C)(C)(C)[Si](O[C@@H]1C(\C(\C[C@@H](C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=C/CO)=C)(C1=CC=CC=C1)C1=CC=CC=C1 | C41H50O3Si2
reactant | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (Z)-(3S,5S)-1-(2-chloro-ethylidene)-3,5-bis-(tert-butyl-diphenyl-silanyloxy)-2-methylene-cyclohexane | 2.76 g | ClC\C=C\1/C([C@H](C[C@H](C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)=C | C41H49ClO2Si2
